US05254565
A mixture of 2-tosylamino-5-chloro-2'-hydroxy-3', 4'-dimethoxybenzophenone (5.89 g) and 70% sulfuric acid (50 ml) was heated for 1 hr. at 90° C. The whole was diluted with water and extracted with chloroform. The chloroform layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by a column chromatography on silica gel and recrystallized from a mixture of ether and hexane to give 2-amino-5-chloro-2'-hydroxy-3',4'-dimethoxybenzophenone as colorless prisms (3.01 g, 76.8%). m.p. 112°-115° C.

reactant | 2-tosylamino-5-chloro-2'-hydroxy-3', 4'-dimethoxybenzophenone | 5.89 g | S(=O)(=O)(C1=CC=C(C)C=C1)NC1=C(C(=O)C2=C(C(=C(C=C2)OC)OC)O)C=C(C=C1)Cl | C22H20ClNO6S
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-amino-5-chloro-2'-hydroxy-3',4'-dimethoxybenzophenone | 3.01 g, 76.8% | NC1=C(C(=O)C2=C(C(=C(C=C2)OC)OC)O)C=C(C=C1)Cl | C15H14ClNO4
